US06777432B1
To a suspension of the 2-(2-nitrophenyl)isoindole-1,3-dione (1.0 g, 3.50 mmol) in benzene, pre-sparged with nitrogen gas, was added 10% palladium on activated carbon (1.0 g). The reaction mixture was placed under an atmosphere of hydrogen gas and was vigorously stirred. After 45 minutes, the reaction mixture was filtered over celite and the filter pad was washed with benzene. Concentration in vacuo gave 236 mg (40%) of 2-(2-aminophenyl)-isoindole-1,3-dione as a yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 8.85 (m, 4H), 7.10 (m, 1H), 6.98 (m, 1H), 6.75 (m, 1H), 6.55 (m, 1H).

reactant | 2-(2-nitrophenyl)isoindole-1,3-dione | 3.50 mmol, 1.0 g | [N+](=O)([O-])C1=C(C=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C14H8N2O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(2-aminophenyl)-isoindole-1,3-dione | 236 mg, 40% | NC1=C(C=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C14H10N2O2
